US05824802
17. Preparation of 1-Ethyl-4-(2-chloro-3-(tetrahydro-1.3-oxazin-3-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole (Compound 54)
A solution of 350 mg (0.87 mmol) of 1-ethyl-4-(2-chloro-3-(3-hydroxypropylamino)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole in 1 mL of dichloromethane was diluted with 10 mL of diethyl ether and treated with 0.10 mL (1.3 mmol) of formalin. After stirring for 40 hours at ambient temperature, the reaction mixture contained a white precipitate and approximately one third of the starting material remained according to HPLC analysis. The solution was decanted and the solids remaining were dissolved in dichloromethane. The resulting solution was washed with water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure. The residue was recrystallized from ethyl acetate to obtain 160 mg (43 percent of theory) of the title compound as tan crystals.

reactant | 1-ethyl-4-(2-chloro-3-(3-hydroxypropylamino)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 0.87 mmol, 350 mg | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)NCCCO)Cl)=O | C16H20ClN3O5S
reactant | formalin | 1.3 mmol, 0.10 mL | C=O | CH2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-Ethyl-4-(2-chloro-3-(tetrahydro-1.3-oxazin-3-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1COCCC1)Cl)=O | C17H20ClN3O5S
